US07501425B1
3-Allyl-1-isopropyl-7-[4-(4-methylpiperazin-1-yl)phenylamino]-1H-pyrimido[4,5-d]pyrimidine-2,4-dione
A mixture of 300 mg (0.96 mmol) of 3-allyl-7-(imidazol-1-yl)-1-isopropyl-1H-pyrimido[4,5-d]pyrimidine-2,4-dione and 551 mg (2.88 mmol) of 1-(4-aminophenyl)-4-methylpiperazine is heated at 180° C. for 2 hours. The reaction mixture is cooled, dissolved into chloroform, and chromatographed on silica eluting with 4:96 methanol/chloroform. The resulting material is crystallized from methanol/water to give 251 mg (60%) of the title compound: mp 176-177° C.

reactant | 3-allyl-7-(imidazol-1-yl)-1-isopropyl-1H-pyrimido[4,5-d]pyrimidine-2,4-dione | 0.96 mmol, 300 mg | C(C=C)N1C(N(C2=NC(=NC=C2C1=O)N1C=NC=C1)C(C)C)=O | C15H16N6O2
reactant | 1-(4-aminophenyl)-4-methylpiperazine | 2.88 mmol, 551 mg | NC1=CC=C(C=C1)N1CCN(CC1)C | C11H17N3
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 3-Allyl-1-isopropyl-7-[4-(4-methylpiperazin-1-yl)phenylamino]-1H-pyrimido[4,5-d]pyrimidine-2,4-dione | 251 mg, 60% | C(C=C)N1C(N(C2=NC(=NC=C2C1=O)NC1=CC=C(C=C1)N1CCN(CC1)C)C(C)C)=O | C23H29N7O2
